US07704995B2
To a solution of 5-(2-thienyl)-2,3-dihydro-1H-inden-1-ol (0.30 g, 1.39 mmol) in tetrahydrofuran (6 mL ) was added diphenylphosphoryl azide (0.58 g, 2.10 mmol) at 0° C. The reaction was stirred for 5 min prior to the addition of 1,8-diazabicyclo{5.4.0]undec-7-ene (DBU, 0.32 g, 2.10 mmol). The reaction was further stirred for 15 min at 0° C. before the reaction was allowed to warm to room temperature. The reaction was stopped after 1 h when the reaction was completed as monitored by thin layer chromatography. Diluted with ethyl acetate (200 mL), washed with water, saturated aqueous sodium chloride (brine), and dried over anhydrous magnesium sulfate. Filtration, concentration and column chromatography on silica (7:3 hexanes/ethyl acetate) gave 2-(1-azido-2,3-dihydro-1H-indene-5-yl)thiophene (0.24g, 72% yield) as oil. 1H NMR (400 MHz, CDCl3) 7.54 (m, 2H), 7.40 (m, 2H), 7.24 (m, 1H), 7.08 (m, 1H), 5.85 (t, 1H), 3.12 (m, 1H), 2.90 (m, 1H), 2.45 (m, 1H), 2.19 (m, 1H).

reactant | 5-(2-thienyl)-2,3-dihydro-1H-inden-1-ol | 1.39 mmol, 0.30 g | S1C(=CC=C1)C=1C=C2CCC(C2=CC1)O | C13H12OS
reactant | diphenylphosphoryl azide | 2.10 mmol, 0.58 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | 1,8-diazabicyclo{5.4.0]undec-7-ene | 2.10 mmol, 0.32 g | N12CCCCCC2=NCCC1 | C9H16N2
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | 2-(1-azido-2,3-dihydro-1H-indene-5-yl)thiophene | 0.24g, 72% yield | N(=[N+]=[N-])C1CCC2=CC(=CC=C12)C=1SC=CC1 | C13H11N3S
